US04263324
60 g of 2-formamidotridecane are refluxed in 400 ml of 2 N HCl for 6 hours. The reaction mixture is then cooled in an ice bath, made alkaline with conc. NaOH, extracted with ether, and the ethereal extract is dried over Na2SO4. The ether is distilled off and the residue is then distilled in vacuo, affording 40 g of 2-aminotridecane. Boiling point: 68°-71° C./0.05.

reactant | 2-formamidotridecane | 60 g | C(=O)NC(C)CCCCCCCCCCC | C14H29NO
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 2 N, 400 ml | Cl | ClH
product | 2-aminotridecane | 40 g | NC(C)CCCCCCCCCCC | C13H29N
